US08106215B2
6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-[3-(biphenyl-2-carbonyl)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with commercially available biphenyl-2-carboxylic acid.

reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN[C@@H]([C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C | C16H22N4OS
reactant | biphenyl-2-carboxylic acid | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | 6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-[3-(biphenyl-2-carbonyl)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | C=1(C(=CC=CC1)C(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CNC(=O)C1=C(N=C2SC=CN21)C)C2=CC=CC=C2 | C29H30N4O2S
